US06965048B2
A solution of 17.1 g (63.1 mmol) of trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester in 60 mL of CCl4, 60 mL of water and 90 mL of acetonitrile were treated with 0.075 g (0.33 mmol, 0.05 eq) of ruthenium (III) chloride-hydrate and 55.4 g (259 mmol, 4.1 eq) of sodium metaperiodate within 30 min. After 6 h the reaction was decanted and washed with CH2Cl2 (×3). The decanted phase was partitioned between CH2Cl2 (×3)/H2O, the organic phase was dried over Na2SO4 and evaporated to yield 17.24 g (96%) of trans-4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexanecarboxylic acid, MS: 284 (M−H−).

reactant | trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 63.1 mmol, 17.1 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CO)=O | C15H29NO3
reactant | sodium metaperiodate | 259 mmol, 55.4 g, 4.1 eq | I(=O)(=O)(=O)[O-].[Na+]
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 60 mL | O | H2O
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
catalyst | ruthenium (III) chloride-hydrate | 0.33 mmol, 0.075 g, 0.05 eq | O.[Ru](Cl)(Cl)Cl
product | trans-4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexanecarboxylic acid | 17.24 g, 96% | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)C(=O)O)C | C15H27NO4
